US08252817B2
2-Chloro-5-(chloromethyl)-3-methylpyridine
The preparation is carried out analogously to Example 6A from 1.00 g (6.35 mmol) (6-chloro-5-methylpyridin-3-yl)methanol and 5 ml thionyl chloride. 1.26 g of the title compound, which is reacted without further purification, are obtained.

reactant | (6-chloro-5-methylpyridin-3-yl)methanol | 6.35 mmol, 1.00 g | ClC1=C(C=C(C=N1)CO)C | C7H8ClNO
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
product | 2-Chloro-5-(chloromethyl)-3-methylpyridine | 1.26 g | ClC1=NC=C(C=C1C)CCl | C7H7Cl2N
